US04303655
To dimethylformamide (0.12 g.) was dropwise added phosphorus oxychloride (0.29 g.) under stirring and ice-cooling, and the mixture was stirred for 30 minutes at 40° C. and then cooled to -20° C. To the mixture was added all at once a solution to 2-(2-tetrahydropyranyl)oxy-2-(2-mesylamino-1,3-thiazol-4-yl)acetic acid, which can be represented as 2-(2-tetrahydropyranyl)oxy-2-(2-mesylimino-2,3-dihydro-1,3-thiazol-4-yl)acetic acid, (0.52 g.) in ethyl acetate (7 ml.) at -20° C. with stirring, and then the mixture was stirred for 30 minutes at -20° to 10° C. Thus obtained mixture was added all at once to the solution prepared in the similar manner as in Example 1 from 3-(1-methyl1H-tetrazol-5-yl)thiomethyl-7-amino-3-cephem-4-carboxylic acid (0.51 g.), bis(trimethylsilyl)acetamide (1.5 ml.) and ethyl acetate (10 ml.), at -40° C. The mixture was stirred for 30 minutes at the same temperature and further stirred for 1.5 hours at -20° to -10° C. After the reaction, the reaction mixture was poured into 5% sodium bicarbonate aqueous solution (20 ml.). The mixture was washed with ethyl acetate, and the aqueous layer was separated therefrom. Thus obtained aqueous layer was post-treated in a similar manner as that of example 5 to give 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-(2-tetrahydropyranyl)oxy-2-(2-mesylamino-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid, which can be represented as 3-(1-methyl1H-tetrazol-5-yl)thiomethyl-7-[2-(2-tetrahydropyranyl)oxy-2-(2-mesylimino-2,3-dihydro-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid, (0.41 g.).

reactant | phosphorus oxychloride | 0.29 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(2-tetrahydropyranyl)oxy-2-(2-mesylamino-1,3-thiazol-4-yl)acetic acid | O1C(CCCC1)OC(C(=O)O)C=1N=C(SC1)NS(=O)(=O)C | C11H16N2O6S2
reactant | 2-(2-tetrahydropyranyl)oxy-2-(2-mesylimino-2,3-dihydro-1,3-thiazol-4-yl)acetic acid | O1C(CCCC1)OC(C(=O)O)C=1NC(SC1)=NS(=O)(=O)C | C11H16N2O6S2
reactant | 3-(1-methyl1H-tetrazol-5-yl)thiomethyl-7-amino-3-cephem-4-carboxylic acid | 0.51 g | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2N)=O | C10H12N6O3S2
reactant | bis(trimethylsilyl)acetamide | 1.5 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 7 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 0.12 g | CN(C=O)C | C3H7NO
product | 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-(2-tetrahydropyranyl)oxy-2-(2-mesylamino-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(C=2N=C(SC2)NS(=O)(=O)C)OC2OCCCC2)=O)=O | C21H26N8O8S4
